US09169259B2
To a solution of 6-(piperidin-1-yl)pyridin-2-amine (0.725 g, 4.12 mmol) in DMF (8 mL) was added NaH (0.11 g, 60% dispersion in mineral oil, 4.18 mmol) and the mixture stirred for 0.5 h. To this mixture was added 8-bromo-6-chloroimidazo[1,2-b]pyridazine (0.384 g, 1.65 mmol) under N2. The mixture was stirred at room temperature for 16 h. The resulting mixture was treated with a saturated NH4Cl solution (50 mL), extracted with ether (80 mL), dried over Na2SO4, filtered and concentrated. The residue was purified by chromatography (silica gel, 200-300 mesh, petroleum ether:ethyl acetate=3:1) to give 6-chloro-N-(6-(piperidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine (0.13 g, 24.1%) as a yellow solid. LC-MS: [M+H]+, 329.0, 331.0, tR=1.912 min

reactant | 6-(piperidin-1-yl)pyridin-2-amine | 4.12 mmol, 0.725 g | N1(CCCCC1)C1=CC=CC(=N1)N | C10H15N3
reactant | NaH | 4.18 mmol, 0.11 g | [H-].[Na+]
reactant | 8-bromo-6-chloroimidazo[1,2-b]pyridazine | 1.65 mmol, 0.384 g | BrC=1C=2N(N=C(C1)Cl)C=CN2 | C6H3BrClN3
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 6-chloro-N-(6-(piperidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine | 0.13 g, 24.1% | ClC=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)N2CCCCC2 | C16H17ClN6
